US05874428
A mixture of potassium iodide (17.5 g, 0.11 mol) and methyl ethyl ketone (180 ml) was heated at reflux temperature for 1 h. A solution of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine (4.8 g, 0.019 mol, prepared similarly as described in example 1) in methyl ethyl ketone (25 ml) was added and heating at reflux temperature was continued for 2 h. Potassium carbonate (8.5 g, 0.061 mol) and 2-methyl-3-piperidinecarboxylic acid methyl ester hydrochloride (5.1 g, 0.026 mol) were added and the reaction mixture was heated just below reflux temperature for 64 h. After cooling, the reaction mixture was filtered (Hyflo) and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel (275 g) using a mixture of heptane and ethyl acetate (1:1) as eluent, to give 3.4 g of 1-(3-(10,11 -dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-2-methyl-3-piperidinecarboxylic acid methyl ester as an oil.

reactant | potassium iodide | 0.11 mol, 17.5 g | [I-].[K+]
reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | Potassium carbonate | 0.061 mol, 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-3-piperidinecarboxylic acid methyl ester hydrochloride | 0.026 mol, 5.1 g | Cl.COC(=O)C1C(NCCC1)C
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 180 ml | C(C)C(=O)C | C4H8O
product | 1-(3-(10,11 -dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-2-methyl-3-piperidinecarboxylic acid methyl ester | 3.4 g | COC(=O)C1C(N(CCC1)CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)C | C25H32N2O2
